US08258160B2
Synthesis of N-benzyl-4-methyl-2-(1-(4-(trifluoromethyl)benzyl)-1H-1,2,3-triazol-4-yl)thiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as necessary to replace 1-(2-azidoethyl)-4-fluorobenzene with 1-(azidomethyl)-4-(trifluoromethyl)benzene to react with N-benzyl-2-ethynyl-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 81% yield: mp 131-132° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.98 (s, 1H), 7.65-7.53 (m, 2H), 7.45-7.34 (m, 2H), 7.28-7.19 (m, 5H), 6.60 (t, J=5.6 Hz, 1H), 5.57 (s, 2H), 4.54 (d, J=5.6 Hz, 2H), 2.61 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 161.9, 157.6, 155.5, 143.1, 137.9, 137.8, 131.3, 128.8, 128.6, 127.8, 127.6, 126.5, 125.2, 123.7, 121.7, 53.8, 44.1, 17.2; MS (ES+) m/z 458.3 (M+1).

reactant | 1-(2-azidoethyl)-4-fluorobenzene | N(=[N+]=[N-])CCC1=CC=C(C=C1)F | C8H8FN3
reactant | 1-(azidomethyl)-4-(trifluoromethyl)benzene | N(=[N+]=[N-])CC1=CC=C(C=C1)C(F)(F)F | C8H6F3N3
reactant | N-benzyl-2-ethynyl-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C#C)C | C14H12N2OS
product | N-benzyl-4-methyl-2-(1-(4-(trifluoromethyl)benzyl)-1H-1,2,3-triazol-4-yl)thiazole-5-carboxamide | 81% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C=1N=NN(C1)CC1=CC=C(C=C1)C(F)(F)F)C | C22H18F3N5OS
